US07371743B2
(b) methyl 4-(allyl-pent-4-en-1-oyl-amino)-3-methyl-benzoate
1.00 g (4.04 mmol) methyl 3-methyl-4-(pent-4-en-1-oyl-amino)-benzoate dissolved in 5 ml DMF are combined with 500 mg (4.37 mmol) potassium-tert.-butoxide and at 40° C. 350 μl (489 mg, 4.04 mmol) allylbromide are slowly added with stirring. Then the mixture is heated to 70° C. for 3 hours. Then the reaction mixture is poured into water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate, evaporated down i. vac., the residue is applied to silica gel and purified by chromatography on silica gel (eluant: petroleum ether/ethyl acetate 9:1).

reactant | methyl 3-methyl-4-(pent-4-en-1-oyl-amino)-benzoate | 4.04 mmol, 1.00 g | CC=1C=C(C(=O)OC)C=CC1NC(CCC=C)=O | C14H17NO3
reactant | potassium tert.-butoxide | 4.37 mmol, 500 mg | [K].CC(C)([O-])C
reactant | allylbromide | 4.04 mmol, 350 μl, 489 mg | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-(allyl-pent-4-en-1-oyl-amino)-3-methyl-benzoate | C(C=C)N(C1=C(C=C(C(=O)OC)C=C1)C)C(CCC=C)=O | C17H21NO3
